US05958918
B. 5,6,7,8-Tetrahydrophenanthrene-3-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide
The title compound is prepared from 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride as in EXAMPLE 24, Part B, substituting 5,6,7,8-tetrahydrophenanthrene-3-sulfonyl chloride for 6-methoxynaphthalene-2-sulfonyl chloride. The crude product is purified by column chromatography eluting with a gradient of 20% EtOAc/CH2Cl2 to 30% EtOAc/CH2Cl2 to give the title compound as a white foam.

reactant | 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | 6-methoxynaphthalene-2-sulfonyl chloride | COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C11H9ClO3S
product | 5,6,7,8-Tetrahydrophenanthrene-3-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2C=CC3=CC=C4CCCCC4=C3C2)=O)C=CC1 | C26H25N3O3S
